US03935214
a. 1-Diethylamino ethyl-2-phenyl-3-keto piperazine
144 g. of 2-phenyl-3-keto piperazine are boiled under reflux with 121 g. of diethylamino ethylchloride, 340 cc. of triethylamine, and 1600 cc. of acetone for 24 hours. The cooled solution is filtered to remove triethylamine hydrochloride and the filtrate is evaporated to dryness. The residue is dissolved in water, 40 % sodium hydroxide solution is added thereto, and the oil which forms an upper layer, is extracted with benzene. The benzene solution is dried over anhydrous potassium carbonate, the benzene is removed by distillation, and the residue is distilled in a vacuum. A light yellow, viscous oil of the boiling point 175° C./0.05 mm. Hg is obtained. The oil is twice recrystallized from n-heptane. 145 g. of the above mentioned compound melting at 53°-56° C. are obtained.. The yield is 64 % of the theoretical yield.

reactant | 2-phenyl-3-keto piperazine | C1(=CC=CC=C1)C1NCCNC1=O | C10H12N2O
reactant | diethylamino ethylchloride | C(C)N(CC)CCCl | C6H14ClN
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | acetone | CC(=O)C | C3H6O
product | 1-Diethylamino ethyl-2-phenyl-3-keto piperazine | yield is 64 % | C(C)N(C(C)N1C(C(NCC1)=O)C1=CC=CC=C1)CC | C16H25N3O
